Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
ibuprofen / Tylenol
 
Attending: ___.
 
Chief Complaint:
joint pain
 
Major Surgical or Invasive Procedure:
Left knee arthrocentesis.

 
History of Present Illness:
___ y/o M with hx EtOH abuse, CAD presents with pain in his upper 
and lower extremities. Patient states that he "has gout in every 
joint of my body." He is a poor historian but reports 5 days of 
feeling unwell, tired and with joint pains. His most recent gout 
flair was ___ months ago involved both knees and he was treated 
with prednisone and he thinks he is still on predisone but is 
unsure of the dose. He says this feels like a gout flair though 
more painful. He has pain in his shoulders, elbows, knees and 
ankles b/l. He says all the joints hurt him and there is no one 
particular joint that bothers him more than the othes. He notes 
rhinorrhea and a cough for "years" which he says his PCP thinks 
is allergies. He feels that his upper resp symptoms have not 
worsened recently. No abdominal pain, nausea, or vomiting. No 
dysuria.  
Re his alcohol intake, he drinks 2 pints of vodka daily, last 
drink was ___. Denies withdrawal symptoms. He has never had 
seizures.  
 
In the ED intial vitals were: 97.8 120 145/78 20 99% ra HR went 
down to ___  
- Labs were significant for WBC 18 Ht 34 (baseline 32) Cr 1.9 
(baseline 1.) lactate 1.5 AG 18  
- Patient was given 2 L IVF  
Vitals prior to transfer were: 98.7 63 159/94 18 98% RA  
admission to medicine for ILI  

 
Past Medical History:
MGUS
LVH  
CKD (baseline creatinine 1.1 ___  
CAD (NSTEMI subendocardial anterioseptal MI ___  
HTN  
Chronic anemia  
HLD  
Gout  
ETOH abuse for years  
Fall  
 
Social History:
___
Family History:
No known history of CAD, DM.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
Vitals - 100.4 161/85 107 20 99%RA  
GENERAL: rigoring, oriented though poor historian, he looks like 
he is in pain  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
patent nares, no thrush  
CARDIAC: tachycardic , no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no edema  
MSK:  
fingers: DIPs and PIPs without effusions, MCPs tender but no 
effusions b/l  
wrists: no effusion  
elbows: b/l effusions of olecranon bursa, R wose than L, warm, 
tender to touch and with movement, no redness, limited 
active/passive ROM  
shoulders: no effusion, tender to touch and with movement  
hips: non tender, able to move without pain  
knees: warm, b/l effusions L worse than R, tender to touch and 
with movement limited active/passive ROM  
ankles: warm, no effusion b/l tender to touch and with movement  

toes  
NEURO: moving all extremities  

DISCHARGE PHYSICAL EXAM
Vitals: 99.2 175/82 80 20 96% RA
Exam:  
GENERAL - Alert, interactive, NAD 
HEENT - PERRLA, EOMI, left eye improved without drainage  
HEART - RRR, nl S1-S2, no MRG  
LUNGS - CTAB  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM  
Ext- hesitant to move elbows, hands, knees, ankles.  large 
tophus on right elbow.  left ___ MCP swelling decreased.  grip 
strength normal. left knee still with effusion but decreased and 
decreased warmth, right knee warm. pt not willing to attempt 
AROM; very painful PROM on both knees. 
Neuro- motor function grossly normal, mild tremor bilaterally in 
all extremities  

 
Pertinent Results:
ADMISSION LABS

___ 06:57PM   LACTATE-1.5
___ 05:37PM   GLUCOSE-132* UREA N-75* CREAT-1.9* SODIUM-143 
POTASSIUM-4.9 CHLORIDE-103 TOTAL CO2-23 ANION GAP-22*
___ 05:37PM   estGFR-Using this
___ 05:37PM   CK(CPK)-174
___ 05:37PM   URIC ACID-11.0*
___ 05:37PM   CRP-GREATER TH
___ 05:37PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 05:37PM   WBC-18.1*# RBC-3.81* HGB-11.2* HCT-34.3* 
MCV-90 MCH-29.4 MCHC-32.6 RDW-15.0
___ 05:37PM   NEUTS-87.7* LYMPHS-5.7* MONOS-6.4 EOS-0.1 
BASOS-0.1
___ 05:37PM   PLT COUNT-318
___ 05:37PM   SED RATE-97*

DISCHARGE LABS
___ 07:00AM BLOOD WBC-11.7* RBC-3.17* Hgb-9.1* Hct-28.4* 
MCV-90 MCH-28.7 MCHC-32.0 RDW-15.1 Plt ___
___ 07:00AM BLOOD Glucose-88 UreaN-23* Creat-0.8 Na-141 
K-4.2 Cl-103 HCO3-28 AnGap-14
___ 07:00AM BLOOD ALT-89* AST-36 AlkPhos-115 TotBili-0.2
___ 07:00AM BLOOD Calcium-9.5 Phos-4.1 Mg-1.6

IMAGING
BILATERAL HAND XRAYS
IMPRESSION: 
  
1. No acute fracture or dislocation.   
2. Slightly suboptimal assessment of the right hand due to 
patient 
positioning. Findings suggestive of gout involving the distal 
aspects of the ___ and ___ metacarpals. 

BILATERAL FOOT XRAYS
IMPRESSION: 
  
No acute fracture or dislocation.  Findings concerning for gouty 
arthritis involving the ___ left MTP joint. 

CXR
IMPRESSION: 
  
No acute cardiopulmonary abnormality. 

 
Brief Hospital Course:
___ man with h/o gout, HTN, CAD, MGUS, alcohol abuse who 
presents with gout, also found to have anemia, transaminitis, 
and very short episode of likely afib, resolved.

1) Gout: Inflammatory markers quite elevated, with CRP greater 
than assay.  Rheumatology was consulted and performed 
arthrocentesis on left knee, which showed negatively 
birefringent crystals, WBC count ___, consistent with gout.  He 
was started on prednisone 60mg daily x5 days, as well as 
tramadol for pain control.  Colchicine avoided due to 
transaminitis.  Improved symptomatically, and discharged with 
prednisone taper: 40mg ___, 20mg ___, 10mg ___, 
then stop.  

2) Transaminitis: Mild, AST>ALT in 2:1 pattern, trending down on 
discharge.  Given patient's history, suspect alcoholic liver 
disease, although upon contacting patient's primary care 
provider, did not have elevated LFTs in the past.  Perhaps we 
could be seeing a transaminitis in the setting of ongoing total 
body inflammation. Liver function with INR normal, plts normal. 
Deferred workup of this, especially since trending down. Would 
repeat LFTs in outpt follow-up and consider further work-up if 
they remain elevated.

3) Anemia: Hemoglobin 8 throughout admission, though dropped 
from 11 at initial admit, was most likely hemoconcentrated 
coming in, given orthostasis and ___.  Upon review of his PCP's 
records shows that his baseline Hgb seems to be around 10.  He 
had no signs of active/overt bleeding.  Also on review of 
records, he has a listed diagnosis of MGUS, and there is some 
concern as to whether the anemia is related to this. Hemolysis 
labs were negative, with a low reticulocyte count. Therefore, 
SPEP sent and pending at time of discharge and will need to be 
followed up. Iron studies actually with high ferritin either due 
to active inflammation at this point, vs. anemia of chronic 
disease. B12 normal.  

4) Paroxysmal afib: had isolated episode of irregularly 
irregular tachycardic rhythm on ___ night of admission, which 
appeared c/w afib on EKG.  However, resolved with fluids and 
reverted to sinus rhythm on his own; maintained on telemetry 
subsequently without events and never recurred.  He was thought 
to be a poor candidate for any anticoagulation. 

5) Alcohol abuse: maintained on CIWA q4h while in ___, with 
diazepam 10mg for CIWA>10.

6) HTN: hypertensive to SBP 180s on admission; once home 
anti-hypertensives were restarted, this normalized, but with a 
few isolated systolics in the 190s.  Therefore, home nifedipine 
increased from 60mg daily to 90mg daily.  Maintained on 
lisinopril and metoprolol.

TRANSITIONAL ISSUES
-Will need to have LFTs rechecked to see if downtrending.  If 
not, will need w/u with RUQ u/s, outpatient eval for 
transaminitis.
-Will need to have CBC rechecked to ensure stability
-SPEP pending at time of discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Simvastatin 20 mg PO DAILY 
3. Metoprolol Succinate XL 200 mg PO DAILY 
4. Lisinopril 40 mg PO DAILY 
5. NIFEdipine CR 60 mg PO DAILY 
6. Thiamine 100 mg PO DAILY 
7. FoLIC Acid 1 mg PO DAILY 
8. Multivitamins 1 TAB PO DAILY 
9. Docusate Sodium 100 mg PO BID:PRN constipation 
10. Colchicine 0.6 mg PO DAILY 
11. Allopurinol ___ mg PO DAILY 
12. Acetaminophen 650 mg PO Q6H:PRN pain 
13. Ranitidine 150 mg PO BID 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Docusate Sodium 100 mg PO BID:PRN constipation 
3. FoLIC Acid 1 mg PO DAILY 
4. Lisinopril 40 mg PO DAILY 
5. Metoprolol Succinate XL 200 mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. NIFEdipine CR 90 mg PO DAILY 
8. Ranitidine 150 mg PO BID 
9. Simvastatin 20 mg PO DAILY 
10. Thiamine 100 mg PO DAILY 
11. Artificial Tears 2 DROP BOTH EYES BID 
12. Polyethylene Glycol 17 g PO DAILY constipation 
13. Senna 8.6 mg PO BID:PRN constipation 
14. Aspirin 81 mg PO DAILY 
15. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
16. PredniSONE 40 mg PO DAILY Duration: 2 Days 
Start ___, through ___ 
Tapered dose - DOWN 
17. PredniSONE 20 mg PO DAILY Duration: 2 Days 
Take ___ 
Tapered dose - DOWN 
18. PredniSONE 10 mg PO DAILY Duration: 2 Days 
Take ___, then stop. 
Tapered dose - DOWN 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
1. Gout
2. Transaminitis
3. Anemia

 
Discharge Condition:
Mental Status: Clear and coherent, although limited in that he 
cannot name people, phone numbers, medical history,etc.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

It was a pleasure taking care of you while you were admitted at 
___.  You were admitted due to joint pain from gout.  You had 
a tap of your left knee to look at the fluid in your knee, and 
this was consistent with gout.  You were started on prednisone 
to help with your inflammation and pain.  You were found to have 
anemia and mildly elevated liver enzymes, but these were stable. 
 Your blood pressure was also high, and your nifedipine (blood 
pressure medication) was increased.
 
Followup Instructions:
___